US05665718
2.4 ml (13.8 mmol) of N-ethyldiisopropylamine and 0.67 ml (8 mmol) of allyl bromide were added to a solution of 756 mg (2 mmol) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one in 20 ml of methylenechloride and the mixture was stirred at room temperature for 20 hours. The reaction solution was subsequently diluted with methylene chloride and washed three times with water. The organic phases were dried with magnesium sulfate, filtered and evaporated. The residue obtained was chromatographed (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1). There were obtained 645 mg (79%) of (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one as a colourless foam, Rf=0.52 (silica gel, methylene chloride/methanol/aqueous ammonia 140:10:1).

reactant | N-ethyldiisopropylamine | 13.8 mmol, 2.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | allyl bromide | 8 mmol, 0.67 ml | C(C=C)Br | C3H5Br
reactant | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 2 mmol, 756 mg | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C14H12N6O2S
reactant | methylenechloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-1-(5-diallylaminomethyl-1,2,4-oxadiazol-5-yl)-11,11a-dihydro-8H,10H-azeto[1,2-a]imidazo[5,1-c]thieno[3,2-e][1,4]diazepin-8-one | 645 mg, 79% | C(C=C)N(CC=C)CC1(N=CNO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CC1 | C20H22N6O2S
